US07041838B2
Using 164.0 g (1.00 mol) of 5-norbornene-2,3-dicarboxylic anhydride, reduction was carried out in the same manner as in Example A13. Thereafter, water was added to the reaction solution, and hydrochloric acid was further added thereto until pH became 0.5. The mixture was extracted twice with hexane, and the combined organic extracts were washed with water. When the hexane layer was separated from the water layer, an emulsion layer appeared in the interface, and therefor the separation was significantly difficult. Although the hexane layer was concentrated with an evaporator until no evaporated products were evaporated, a product of interest could not be isolated. In the analysis of DMF concentration by gas chromatography, remaining DMF represented 15% to the total mass. So as to eliminate the DMF, hexane and water were added to the flask, and after fully stirring, the mixture was separated in layers. The hexane layer was subjected to an evaporator again to concentrate it until no evaporated products were evaporated. After the operation to eliminate the DMF was repeated twice, the concentration of remaining DMF represented 3% to the total mass. This time, it was observed that a highly adhesive white solid was present in the flask, and the removal of this solid was difficult. This solid was analyzed by gas chromatography, and as a result, 67.6 g (0.450 mol) of 4-oxatricyclo[5.2.1.02,6]decen-3-one was obtained at a yield of 45%. When compared with Example A13, the yield was significantly decreased, and further, the operation became more complicated.

reactant | 5-norbornene-2,3-dicarboxylic anhydride | 1.00 mol, 164.0 g | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-oxatricyclo[5.2.1.02,6]decen-3-one | 0.450 mol, 67.6 g, yield of 45% | C12=C3C(OCC3C(CC1)C2)=O | C9H10O2
